US04062859
EXAMPLE 2 -- Preparation of 4,5-dichloro-2-n-octyl-3-isothiazolidinone 1-oxide
To a solution of 2.29g. (0.01 mole) of 2-n-octyl-4-isothiazolin-3-one 1-oxide in 3 ml. of EDC is added 1.2g. (0.01 mole) of sulfuryl chloride in 3 ml. of EDC. The mixture is stirred at room temperature over a weekend. The solution is filtered and concentrated to give an oil. The oil is further purified via column chromatography (100% benzene: silica) to give 1.0g. (33%) of product.

reactant | 2-n-octyl-4-isothiazolin-3-one 1-oxide | 0.01 mole | C(CCCCCCC)N1S(C=CC1=O)=O | C11H19NO2S
reactant | sulfuryl chloride | 0.01 mole | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | EDC
product | 4,5-dichloro-2-n-octyl-3-isothiazolidinone 1-oxide | ClC1C(N(S(C1Cl)=O)CCCCCCCC)=O | C11H19Cl2NO2S
